US07041668B2
A solution of cesium carbonate (156 mg) in water (0.3 ml) was added to a solution of 4-hydroxy-benzenesulfonic acid 4-amino-3-nitro-phenyl ester (150 mg) and benzyl bromide (58 μl) in dimethylformamide (3 ml). The reaction mixture was heated at 80° C. for 3 hours then allowed to cool to ambient temperature, poured into water (25 ml) and extracted three times with ethyl acetate (30 ml). The combined extracts were dried over magnesium sulfate then evaporated to give 189 mg of crude 4-benzyloxy-benzenesulfonic acid 4-amino-3-nitrophenyl ester.

reactant | cesium carbonate | 156 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-hydroxy-benzenesulfonic acid 4-amino-3-nitro-phenyl ester | 150 mg | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)O)[N+](=O)[O-] | C12H10N2O6S
reactant | benzyl bromide | 58 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 0.3 ml | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 25 ml | O | H2O
product | 4-benzyloxy-benzenesulfonic acid 4-amino-3-nitrophenyl ester | 189 mg | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C19H16N2O6S
